US06586447B1
5E. 4-(6-Bromo-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide
4-(6-Bromo-2-oxo-3-pyridin-4-ylmethylene-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide (1.45 g, 2.92 mmol) was dissolved in a previously degassed solution of 50 ml of methanol and 50 ml of THF under an atmosphere of dry N2. To this solution was added sodium borohydride (177 mg, 4.67 mmol). The reaction was stirred at ambient temperature for 1.5 hours after which time 11.7 ml of aqueous 1.0 N potassium hydroxide (KOH) was added followed by the addition of 4-picolyl chloride hydrochloride (520 mg, 3.08 mmol). The reaction mixture was then stirred at ambient temperature for 2 hours after which time the reaction mixture was concentrated under vacuum to give a dark oil. The dark oil was partitioned between DCM and saturated aqueous NaHCO3. The DCM layer was then washed with brine, dried over Na2SO4, filtered and concentrated under vacuum to give a dark oil which was chromatographed on flash silica gel eluting with a gradient from EtOAc/hexanes (60:40) to EtOAc/Hexanes (80:20) to give 650 mg of the titled compound as a pink solid.

reactant | 4-(6-Bromo-2-oxo-3-pyridin-4-ylmethylene-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | 2.92 mmol, 1.45 g | BrC1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)=CC1=CC=NC=C1 | C23H20BrN3O3S
reactant | sodium borohydride | 4.67 mmol, 177 mg | [BH4-].[Na+]
reactant | potassium hydroxide | 1.0 N | [OH-].[K+]
reactant | 4-picolyl chloride hydrochloride | 3.08 mmol, 520 mg | Cl.N1=CC=C(C=C1)CCl
solvent | methanol | 50 ml | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(6-Bromo-2-oxo-3,3-bis-pyridin-4-ylmethyl-2,3-dihydro-indol-1-ylmethyl)-N,N-dimethyl-benzenesulfonamide | 650 mg | BrC1=CC=C2C(C(N(C2=C1)CC1=CC=C(C=C1)S(=O)(=O)N(C)C)=O)(CC1=CC=NC=C1)CC1=CC=NC=C1 | C29H27BrN4O3S
